US09168245B2
Synthesis of intermediate V-b: 3-Bromo-4-methyl-pyridin-2-ol
A solution of 4-methyl-pyridin-2-ol V-a (25 g, 229 mmol) in glacial acetic acid (350 mL) and EtOAc (680 mL) was treated with NBS (37.4 g, 210 mmol) and stirred at room temperature for 30 min. The mixture was then taken to pH 8 with aqueous ammonia and extracted with EtOAc. The separated organics were washed with 1:1 H2O/brine then dried (MgSO4), filtered and evaporated before purification by silica column chromatography (1-4% EtOH/DCM) to afford the desired product V-b as a white solid (8.66 g). 1H NMR (300 MHz, DMSO) δ 11.90 (s, 1H), 7.32 (d, J=6.6 Hz, 1H), 6.19 (d, J=6.6 Hz, 1H), 2.25 (s, 3H).

reactant | 4-methyl-pyridin-2-ol | CC1=CC(=NC=C1)O | C6H7NO
reactant | EtOAc | 680 mL | CCOC(=O)C | C4H8O2
reactant | NBS | 210 mmol, 37.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ammonia | N | H3N
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-4-methyl-pyridin-2-ol | BrC=1C(=NC=CC1C)O | C6H6BrNO
